### PR TITLE
[Merged by Bors] - feature(Analysis/SpecialFunctions/Complex/CircleAddChar): ZMod.toCircle_eq_circleExp

### PR DESCRIPTION
**Pull request by mans0954**
Show that `ZMod.toCircle k` equals `Circle.exp (2 * π * (k.val / N))`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mans0954** [comment]
I hope there's an easier way of proving this.

File: Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean [hunk 1]
```diff
@@ -63,6 +63,17 @@ lemma toCircle_apply (j : ZMod N) :
     toCircle j = exp (2 * π * I * j.val / N) := by
   rw [← toCircle_natCast, natCast_zmod_val]
 
+lemma toCircle_eq_Circle_exp (j : ZMod N) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean:66]: Should be
```suggestion
lemma toCircle_eq_circleExp (j : ZMod N) :
```

File: Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean [hunk 2]
```diff
@@ -63,6 +63,17 @@ lemma toCircle_apply (j : ZMod N) :
...
+    toCircle j = Circle.exp (2 * π * (j.val / N)) := by
+  ext
+  rw [toCircle_apply, Circle.coe_exp]
+  congr
+  rw [mul_assoc, mul_div_assoc, mul_div_assoc, mul_comm I, ← mul_assoc, mul_left_inj' I_ne_zero,
+    ofReal_mul, ofReal_div, ofReal_mul, ofReal_ofNat, mul_right_inj'
+    (by rw [← ofReal_ofNat, ← ofReal_mul, ofReal_ne_zero]; exact Real.two_pi_ne_zero),
+    ofReal_natCast]
+  rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean:75]:
```suggestion
    ofReal_natCast, ofReal_natCast]
```

Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean:75]: Though this also seems to work:
```suggestion
  push_cast
  ring
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks! Some nits below

File: Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean (hunk 2 above)
Comment (mans0954) [reply Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean]: Thanks - I prefer your other solution!

**Comment by loefflerd** [comment]
Looks reasonable to me

maintainer merge

File: Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean [hunk 3]
```diff
@@ -63,6 +63,13 @@ lemma toCircle_apply (j : ZMod N) :
     toCircle j = exp (2 * π * I * j.val / N) := by
   rw [← toCircle_natCast, natCast_zmod_val]
 
+lemma toCircle_eq_circleExp (j : ZMod N) :
+    toCircle j = Circle.exp (2 * π * (j.val / N)) := by
+  ext
+  rw [toCircle_apply, Circle.coe_exp]
+  push_cast
+  ring_nf
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean:71]: Does `ring` work here?

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean (hunk 3 above)
Comment (mans0954) [reply Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean:71]: It can replace the `ring_nf`, but the following suggestion is shown:
```
Try this: ring_nf

The `ring` tactic failed to close the goal. Use `ring_nf` to obtain a normal form.
  
Note that `ring` works primarily in *commutative* rings. If you have a noncommutative ring, abelian group or module, consider using `noncomm_ring`, `abel` or `module` instead.
```

Comment (loefflerd) [reply Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean:71]: Does it actually close the goal, or not? 

(There was a bug for a while that `ring` would sometimes print this warning even if it did manage to close the goal. I thought it had been fixed now though.)

Comment (mans0954) [reply Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean]: I've pushed a commit using `ring` instead of `ring_nf`.

It fails at `check for noisy stdout lines`:
```
[4480/5478] Replayed Mathlib.Analysis.SpecialFunctions.Complex.CircleAddChar
info: /home/lean/actions-runner/_work/mathlib4/mathlib4/Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean:71:2: Try this: ring_nf
```

Comment (mans0954) [reply Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean]: Should I open an issue?

Comment (riccardobrasca) [reply Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean]: Why not. In the meantime, `congr; ring` works.

**Comment by loefflerd** [comment]
Here is the last zulip thread on this issue : https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/noisy.20ring/with/329038837

File: Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean (hunk 3 above)
Comment (mans0954) [reply Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean]: #24910
